Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Ace Inhibitors / Plavix / Percocet
 
Attending: ___.
 
Chief Complaint:
Endoleak
 
Major Surgical or Invasive Procedure:
Trans caval embolization of ___ for type 2 endoleak

 
History of Present Illness:
This is an ___ gentleman who has had a
Gore graft placed for an infrarenal AAA in ___.  On his
surveillance CAT scan, he was recently found to have a type 2
endoleak from a patent ___ and had increase in his sac size.
He was, therefore, consented and booked for a transarterial
coil embolization of the inferior mesenteric artery.  There was 
a tortuous branch of the superior mesenteric artery with 
stenosis at its takeoff that could be used to get into the colic 
artery and then into the internal mammary artery however, 
repeated attempts were not
successful to do so and therefore pt was scheduled for a trans 
caval approach.

 
Past Medical History:
5.5cm AAA, Aflutter, CAD (s/p CABGx2 for MI in ___, s/p stents 
for occluded SVG-LAD, SVG-OMI grafts ___, HTN, HLD, chronic 
LBP, OA, diverticulitis, bladder cancer , prostate cancer 

PSH: B/L IHR (___), L IHR (___), RCR (___), b/l 
cataract extraction (___)
 
Social History:
___
Family History:
N/A
 
Physical Exam:
Vitals: 98.2F HR 52 BP 118/60 RR 16 94% RA
Gen: NAD, AAOX3
CV: RRR, no m/r/g
RESP: CTABL
ABD: soft, nondistended, nontender
Extremities: Groin incision site c/d/i
Pulses: L: p/d/d/d R: p/d/d/d

 
Pertinent Results:
___ 05:45AM BLOOD WBC-6.6 RBC-3.25* Hgb-9.2* Hct-28.9* 
MCV-89 MCH-28.2 MCHC-31.7 RDW-16.7* Plt ___
___ 05:45AM BLOOD Glucose-92 UreaN-16 Creat-0.7 Na-137 
K-4.3 Cl-104 HCO3-27 AnGap-___ w/infrarenal AAA with Gore graft placement in ___, s/p 
failed coil embolization for type 2 endoleak from ___ in ___ 
who presented for scheduled trans caval embolization of Type 2 
endoleak (___). Pt arrived in preop on day of scheduled 
procedure. He underwent the procedure without any complications. 
He was briefly monitored in the PACU without any acute issues. 
Pt was thereafter transferred to the floor where he was 
monitored overnight without any complications. Pt was tolerating 
a regular diet, pain was well controlled with oral medications, 
and his physical exam and lab values were all within normal 
limits by the day of discharge. He was discharged to home in 
stable condition to follow up with Dr. ___ in clinic in 4 
weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 2 mg PO HS 
2. Oxybutynin 5 mg PO QHS 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Diltiazem 30 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Senna 17.2 mg PO DAILY 
7. Warfarin ___ mg PO DAILY16 as directed by ___ 
clinic 
8. Atorvastatin 40 mg PO QPM 
9. Isosorbide Dinitrate 30 mg PO DAILY 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. Acetaminophen w/Codeine ___ TAB PO Q6H:PRN severe pain; 
limit 4/day 
12. Aspirin 81 mg PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Diltiazem 30 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Oxybutynin 5 mg PO QHS 
7. Senna 17.2 mg PO DAILY 
8. Acetaminophen w/Codeine ___ TAB PO Q6H:PRN severe pain; limit 
4/day 
9. Doxazosin 2 mg PO HS 
10. Isosorbide Dinitrate 30 mg PO DAILY 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
12. Vitamin D 1000 UNIT PO DAILY 
13. Warfarin ___ mg PO DAILY16 as directed by ___ 
clinic 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Type 2 endoleak (___)
Secondary: Abdominal aortic aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were 
hospitalized to repair an endoleak of your aorta and underwent a 
trans caval embolization. You are recovering well from the 
procedure and are discharged in stable condition. Please follow 
the instructions below.

MEDICATION:
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort
WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications
CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site
SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___